* D:\Work\UFSM\Disciplinas\Eletroacustica_1\exemplos_computacionais_eletroI\u5_acoplamento_mec_ac\Pistao_caixa_baffleinfinito\EA_EX7_PistaoCaixaSelada.asc
V1 N001 0 AC 1
L§Mm N001 N002 0.05
Rm N003 N002 0.4
Cm N004 N003 0.01
L2 0 N004 0.00033
L3 0 N005 1
Ca N006 N005 128n
Car1 N007 N006 18.5µ
L§Mar N006 0 4.28
Rr1 N006 N007 10035
Rar2 N007 0 22752
K1 L2 L3 1
.ac dec 1000 0.1 10000
.backanno
.end
